US08536209B2
2-Methyl-5-o-tolyl-oxazole-4-carboxylic acid [2-(5-acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by L, starting from 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-(o-tolyl)-2-methyl-oxazole-4-carboxylic acid.

reactant | 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=C(O1)CN1N=CC(=N1)N | C11H14N4O3
reactant | 5-(o-tolyl)-2-methyl-oxazole-4-carboxylic acid | C1(=C(C=CC=C1)C1=C(N=C(O1)C)C(=O)O)C | C12H11NO3
product | 2-Methyl-5-o-tolyl-oxazole-4-carboxylic acid [2-(5-acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C1=CC=C(O1)CN1N=CC(=N1)NC(=O)C=1N=C(OC1C1=C(C=CC=C1)C)C | C21H19N5O4
